US04110342
Methyl 2-Methyl-4-thienyl Ketone
2-Methylthiophene-4-carboxylic acid (14.2 g., 0.1 mole) prepared by the method of Shvedov et al., Khim. Geterotsikl. Soedin. 1010 (1967); Chem. Abstrs., 69, 51922j (1968) in 250 ml. of ethyl ether is cooled to -10° to 0° C. and an ethereal solution of methyl lithium (4.4 g., 0.2 mole) is added dropwise while maintaining the reaction mixture below 0° C. After stirring for 1 hour at 0° C., a solution of 4 g. of water in 100 ml. of ethanol is added cautiously and the mixture allowed to warm to room temperature. The desired product is then isolated by partitioning the reaction mixture between ether and water and evaporation of the organic extracts.

reactant | 2-Methylthiophene-4-carboxylic acid | 0.1 mole, 14.2 g | CC=1SC=C(C1)C(=O)O | C6H6O2S
reactant | ethyl ether | C(C)OCC | C4H10O
reactant | methyl lithium | 0.2 mole, 4.4 g | C[Li]
reactant | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | Methyl 2-Methyl-4-thienyl Ketone | CC=1SC=C(C1)C(=O)C | C7H8OS
